US04228100
Reaction of THPC (9.53 g, 0.05 mol) with urea (12.01 g, 0.2 mol) in toluene (75 ml), following Example 1, gave 18.14 g (101%) of tetrakis(ureidomethyl)phosphonium chloride (I, R=R'=R"=H, X=Cl) as a colorless, brittle glass.

reactant | THPC | 0.05 mol, 9.53 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | urea | 0.2 mol, 12.01 g | NC(=O)N | CH4N2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis(ureidomethyl)phosphonium chloride | 18.14 g, 101% | [Cl-].N(C(=O)N)C[P+](CNC(=O)N)(CNC(=O)N)CNC(=O)N | InChI=1S/C8H19N8O4P.ClH/c9-5(17)13-1-21(2-14-6(10)18,3-15-7(11)19)4-16-8(12)20;/h1-4H2,(H11-,9,10,11,12,13,14,15,16,17,18,19,20);1H
